US04738961
6-(3-Bromophenyl)-2-hydroxymethyl-3(2H)-pyridazinone (Compound No. 1)
2.51 g of 6-(3-bromophenyl)-3(2H)-pyridazinone, 5 ml of a 37% formalin and 2 drops of concentrated hydrochloric acid were dissolved in 50 ml of methanol, and then the solution was heated under reflux for about 7 hours. The mixture was then left to stand overnight, after which it was filtered and the filtrate was concentrated by evaporation under reduced pressure. The resulting residue was extracted with a 1:1 by volume mixture of ethyl acetate and acetone. After distilling the solvent from the extract, there were obtained 1.13 g (yield 40%) of the desired Compound No. 1 in the form of a white solid melting at 228°-229° C.

reactant | 6-(3-bromophenyl)-3(2H)-pyridazinone | 2.51 g | BrC=1C=C(C=CC1)C=1C=CC(NN1)=O | C10H7BrN2O
reactant | formalin | C=O | CH2O
catalyst | hydrochloric acid | 2 drops | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 6-(3-Bromophenyl)-2-hydroxymethyl-3(2H)-pyridazinone | 1.13 g, yield 40% | BrC=1C=C(C=CC1)C=1C=CC(N(N1)CO)=O | C11H9BrN2O2
